US07915443B2
(S)-N-[(3-hydroxypropyl)(oxido)phenyl--sulfanylidene]-5-({3-[(3-methyl-2-furoyl)amino]phenyl}ethynyl)nicotinamide
To the solution of (S)-N-[(3-{[tert-butyl(dimethyl)silyl]oxy}propyl)(oxido)phenyl--sulfanylidene]-5-({3-[(3-methyl-2-furoyl)amino]phenyl}ethynyl)nicotinamide (2.2 g, 3.43 mmol) in anhydrous THF (60 mL) at 0° C. was added dropwise tert-butylammonium fluoride (7.2 mL, 1 M in THF) and the reaction was stirred at 0° C. for 1 hour. The yellow reaction solution was then concentrated at room temperature to give a red oil. The oily residue was diluted with EtOAc, which was washed with saturated aqueous NaHCO3 (2×), brine (1×), and then dried (anhydrous Na2SO4). The organic layer was decanted, concentrated, and the resulting oily residue was chromatographed (MeOH—CH2Cl2: from 1:100 to 1:50) yielding the title compound as a clear oil which turned into white foam in-vacuo (1.72 g, 95%).

reactant | (S)-N-[(3-{[tert-butyl(dimethyl)silyl]oxy}propyl)(oxido)phenyl--sulfanylidene]-5-({3-[(3-methyl-2-furoyl)amino]phenyl}ethynyl)nicotinamide | 3.43 mmol, 2.2 g | [Si](C)(C)(C(C)(C)C)OCCC[S@@](=NC(C1=CN=CC(=C1)C#CC1=CC(=CC=C1)NC(=O)C=1OC=CC1C)=O)(C1=CC=CC=C1)=O | C35H39N3O5SSi
reactant | tert-butylammonium fluoride | 1 M, 7.2 mL | [F-].C(C)(C)(C)[NH3+]
solvent | THF | 60 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (S)-N-[(3-hydroxypropyl)(oxido)phenyl--sulfanylidene]-5-({3-[(3-methyl-2-furoyl)amino]phenyl}ethynyl)nicotinamide | OCCC[S@@](=NC(C1=CN=CC(=C1)C#CC1=CC(=CC=C1)NC(=O)C=1OC=CC1C)=O)(C1=CC=CC=C1)=O | C29H25N3O5S
